US08193228B2
A mixture of copper (I) iodide (1 mg, 0.01 mmol), 2-(4-bromophenyl)-3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoropropan-2-ol (50 mg, 0.08 mmol), 1,2,3-triazole (11 mg, 0.15 mmol) and potassium carbonate (21 mg, 0.15 mmol) in N-methylpyrrolidinone (1 mL) were irradiated in a microwave reactor at 195° C. for 1 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic phases were dried (magnesium sulfate), filtered and concentrated in vacuo. High pressure liquid chromatography (KR100-5C18 100×21.2 mm column) eluting with 10-100% acetonitrile/water containing 0.1% trifluoroacetic acid afforded 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(2H-1,2,3-triazol-2-yl)phenyl]propan-2-ol.

reactant | 2-(4-bromophenyl)-3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoropropan-2-ol | 0.08 mmol, 50 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)(CC=1N(C=C(N1)CC(C)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H34BrF3N2O
reactant | 1,2,3-triazole | 0.15 mmol, 11 mg | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 0.15 mmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
catalyst | copper (I) iodide | 0.01 mmol, 1 mg | [Cu]I
product | 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(2H-1,2,3-triazol-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)(F)F)(O)C1=CC=C(C=C1)N1N=CC=N1)(C)C | C38H36F3N5O
